US04334079
Phenylacetic acid, sodium salt, is reacted with 4-methoxybenzyl bromide to obtain 4-methoxybenzyl phenylacetate;

reactant | Phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | sodium | [Na] | Na
reactant | 4-methoxybenzyl bromide | COC1=CC=C(CBr)C=C1 | C8H9BrO
product | 4-methoxybenzyl phenylacetate | C1(=CC=CC=C1)CC(=O)OCC1=CC=C(C=C1)OC | C16H16O3
